US05574044
To a stirred solution of 0.050 g of 1,3-dihydro-1-{trans-4-[4-piperidinylamino]-1-cyclohexyl}-2H-benzimidazol-2-one and 0.023 mL of triethylamine in 1.5mL of dichloromethane was added 0.024 g of nicotinoyl chloride hydrochloride. After 12 h, 20 mL of saturated sodium carbonate was added, the organic layer was separated, and the aqueous layer extracted with two addtional 20 mL portions of chloroform. The combined organic extracts dried over MgSO4 and concentrated under reduced pressure. Chromatography over silica gel eluting with 10% methanol/10% conc. NH4OH in chloroform gave 0.024 g of 1,3-dihydro-1-{trans -4-[1-(3-pyridinecarbonyl)-4-piperidinylamino]-1-cyclohexyl}-2H-benzimidazol-2-one as a white solid: 1H NMR (400 MHz, CDCl3) 9.04 (s, 1H), 8.68 (dd, 2H), 7.77 (m, 1H), 7.38 (m, 1H), 7.26 (m, 1H), 7.06 (m, 3H), 4.67 (br s, 1H), 3.75 (br s, 1H), 3.18 (br s, 2H), 2.99 (br s, 1H), 2.87 (br s, 1H), 2.55 (q, 2H), 2.13-1.9 (m, 4 H), 1.72-1.3 (m, 7H). The dihydrochloride salt was precipitated from chloroform/ethyl acetate: Analysis calculated for C24H29N5O2.2HCl.0.90 CHCl3.0.25 CH3CO2CH2CH3C: 50.02, H: 5.95, N: 11.26 found C: 51.28, H: 5.49, N: 11.53.

reactant | 1,3-dihydro-1-{trans-4-[4-piperidinylamino]-1-cyclohexyl}-2H-benzimidazol-2-one | 0.050 g | N1CCC(CC1)N[C@@H]1CC[C@H](CC1)N1C(NC2=C1C=CC=C2)=O | C18H26N4O
reactant | triethylamine | 0.023 mL | C(C)N(CC)CC | C6H15N
reactant | nicotinoyl chloride hydrochloride | 0.024 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | sodium carbonate | 20 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 1.5mL | ClCCl | CH2Cl2
product | 1,3-dihydro-1-{trans -4-[1-(3-pyridinecarbonyl)-4-piperidinylamino]-1-cyclohexyl}-2H-benzimidazol-2-one | 0.024 g | N1=CC(=CC=C1)C(=O)N1CCC(CC1)N[C@@H]1CC[C@H](CC1)N1C(NC2=C1C=CC=C2)=O | C24H29N5O2
